US04923789
Next 5.4 ml of n-octyl bromide was added to a solution consisting of 5 grams of 6-chloro-1-methyl-uracil obtained as described above, 5.2 grams of potassium carbonate and 50 ml of N,N-dimethylformamide and the mixture was heated to 90° C. and stirred for a period of 5 hours. After cooling, the reaction mixture was added slowly to a solution of 10 ml of concentrated hydrochloric acid and 300 ml of water. The resulting solution was extracted twice with 100 ml of chloroform and, after drying over magnesium sulfate, the chloroform layer was concentrated under reduced pressure. The concentrate was then refined using silica gel column chromatography, whereupon 3.1 grams of 6-chloro-1-methyl-3-n-octyl-uracil was obtained in the form of white crystals.

reactant | n-octyl bromide | 5.4 ml | C(CCCCCCC)Br | C8H17Br
reactant | 6-chloro-1-methyl-uracil | 5 grams | ClC1=CC(NC(N1C)=O)=O | C5H5ClN2O2
reactant | potassium carbonate | 5.2 grams | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-chloro-1-methyl-3-n-octyl-uracil | 3.1 grams | ClC1=CC(N(C(N1C)=O)CCCCCCCC)=O | C13H21ClN2O2
